* INA826
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************	
* Released by: LAMPS-PRAMPS
* Part: INA826
* Date: version 1.0 - 2011-09-12
*       version 1.1 - 2022-03-02
* Model Type: All In One
* Simulator: TINA-TI
* Simulator Version: 9 SF-TI
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS562 – September 2011
*
* Model Version 1.1:
* 
*****************************************************************************	
*
* Updates:
*
* Version 1.1: (a) Stripped off all unused SUBCKT definitions and 
*                  MODEL statements
*			   (b) Moved GLOBAL definitions of PARAM and MODEL statements into
*                  each applicable SUBCKT definitions
*              (c) All SUBCKT has _INA826 as unique name qualifications
*
* Version 1.0 : Release to Web
*
*****************************************************************************
*
* INA826 SUBCIRCUIT
* Precision instrumentation amplifier 
* Model designer: Designsoft & Analog eLABS (Original)
*
** source INA826
******************************************************
.subckt INA826 IN+ IN- RG+ RG- VDD GND OUT REF
******************************************************
*
CC1         NEG_27 OUT 1.5P
CC2         PLUS REF 1.5P
CC3         OUT_26 NEG_25 3P
CC4         OUT_1 NEG 3P
CEMI1       VB1 GND 4.9P
CEMI2       VB2 GND 4.9P
RB1         NEG GND 20K TC=-15.4731U
RB2         NEG_25 GND 20K
RG1         RG+ OUT_1 24.7003705K TC=-35U
RG2         RG- OUT_26 24.7003705K TC=-35U
RG3         OUT NEG_27 49.99925K TC=-36U
RG4         NEG_27 OUT_26 50.00075K TC=-34U
RG5         PLUS OUT_1 49.99925K TC=-34U
RG6         REF PLUS 50.00075K TC=-36U
XBIAS IAVDD VDD VNEG GND BIAS VM VT0PI VB VEPS VT0P VT0 IGND VNOISE VT0I BIAS_0_INA826
XD1 OUT VDD D_D2_0_INA826
XD2 GND OUT D_D2_0_INA826
XD3 RG- VDD D_D2_0_INA826
XD4 REF VDD D_D2_0_INA826
XD5 GND REF D_D2_0_INA826
XD6 GND RG- D_D2_0_INA826
XD7 RG+ VDD D_D2_0_INA826
XD8 GND RG+ D_D2_0_INA826
XD9 VB1 RG+ D_DBE_0_INA826
XD10 VB2 RG- D_DBE_0_INA826
XD11 VB1 VDD D_D2_0_INA826
XD12 GND VB1 D_D2_0_INA826
XD13 VB2 VDD D_D2_0_INA826
XD14 GND VB2 D_D2_0_INA826
XINPUT1 VM NEG IGND BIAS IAVDD OUT_1 VDD VB GND VT0PI VT0I VEPS VNEG VNOISE INPUT_1_INA826
XOUTPUT VM NEG_27 IGND BIAS IAVDD OUT VDD VEPS GND VT0P VT0 PLUS VNEG VNOISE OUTPUT_0_INA826
XT1 NEG_25 VB2 RG- PNP_INN_0_INA826 PARAMS: AREA=4
XT2 IN- 23 23 JPF_0_INA826
XT3 VB2 23 23 JPF_0_INA826
XT4 NEG VB1 RG+ PNP_INP_0_INA826 PARAMS: AREA=4
XT5 VB1 21 21 JPF_0_INA826
XT6 IN+ 21 21 JPF_0_INA826
XU1 VM NEG_25 IGND BIAS IAVDD OUT_26 VDD VB GND VT0PI VT0I VEPS VNEG VNOISE INPUT_0_INA826
.ENDS INA826

.SUBCKT D_D2_0_INA826 1 2
D1 1 2 D2
.MODEL D2 D(IS=1p N=1.0 XTI=0 RS=10)
.ENDS D_D2_0_INA826

.SUBCKT D_DBE_0_INA826 1 2
D1 1 2 DBE
.MODEL DBE D(IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
.ENDS D_DBE_0_INA826

.SUBCKT JPF_0_INA826 1 2 3
J1 1 2 3 JPF
.MODEL JPF PJF(Beta=315.0u Lambda=10m Vto=-2.0)
.ENDS JPF_0_INA826

.SUBCKT PNP_INN_0_INA826 1 2 3
+ PARAMS: AREA=1
Q1 1 2 3 Q_PNP_INN {AREA}
.MODEL Q_PNP_INN PNP(IS=1.27E-18 NF=1 NR=1 IKF=3.0 IKR=3.0 BF=206.6 ISE=270E-18 NE=2.5 BR=2.0 ISC=23F NC=2 CJE=10F CJC=20F TF=6P TR=600P XTB=-2.55 EG=1.02 XTI=3 KF=3.7629E-18)
.ENDS PNP_INN_0_INA826

.SUBCKT PNP_INP_0_INA826 1 2 3
+ PARAMS: AREA=1
Q1 1 2 3 Q_PNP_INP {AREA}
.MODEL Q_PNP_INP PNP(IS=1.26733629E-18 NF=1 NR=1 IKF=3.0 IKR=3.0 BF=210.4 ISE=270E-18 NE=2.5 BR=2.0 ISC=23F NC=2 CJE=10F CJC=20F TF=6P TR=600P XTB=-2.55 EG=1.02 XTI=3 KF=3.7629E-18)
.ENDS PNP_INP_0_INA826
*$

******************************************************
.subckt Bias_0_INA826 IAVDD VDD VNEG GND Bias VM Vt0pi Vb Veps Vt0p Vt0 IGND Vnoise 
+ Vt0i
******************************************************
*
EAVDD       IAVDD IGND VALUE = {V(VDD,GND)}
EGND        IGND 0 GND 0  1
EVM         IAVDD VM VALUE = {3.2105*V(BIAS,IGND)}
EVNEG       VM VNEG VALUE = {3.2105*V(BIAS,IGND)}
G8PS        GND VEPS 32 VDD  1
GAVB        IGND BIAS VALUE = {45.4545K*I(VIB1)}
GIB1        VT0P VT0 BIAS IGND  1.5U
GIB2        VT0PI VT0I BIAS IGND  500N
GIVB        GND VB BIAS IGND 3.125U
IS1         35 36 20.889597U
R1          BIAS IGND 1 TC=1.87M,-3.77U
R2          VDD VT0P 100MEG 
R3          VT0 GND 100MEG 
R4          VDD VT0PI 100MEG 
R5          VT0I GND 100MEG 
R6          VEPS GND 1 
RNO1        0 VNO 195.4130452932K 
RNO2        0 VNO 195.4130452932K 
RPSRR1      VT0P VT0 1G 
RPSRR2      VT0PI VT0I 1G 
RS4         35 36 248.181818MEG
RVB         VB GND 40K 
VIB1        36 GND ; CURRENT ARROW
VPSREF      32 GND 30
VS1         37 VT0I 1.4
VS2         38 VT0 1.4
VS3         34 0 567.7114646746M
VS4         0 33 567.7114646746M
XD1         37 VT0PI D_LIM1_0_Bias_0
XD2         38 VT0P D_LIM1_0_Bias_0
XD3         36 35 D_D4_0_Bias_0
XD4         VNOISE 33 D_DBE_1_Bias_0
XDP2        34 VNOISE D_DBE_1_Bias_0
XDZB1       35 VDD D_ZB1_0_Bias_0
XT2         VT0 VT0 GND NPN_1_0_Bias_0
+ PARAMS: AREA=0.25 
XT3         VT0I VT0I GND NPN_1_0_Bias_0
+ PARAMS: AREA=0.125 
XT4         VT0PI VT0PI VDD PNP_1_0_Bias_0
+ PARAMS: AREA=0.125 
XT5         VT0P VT0P VDD PNP_1_0_Bias_0
+ PARAMS: AREA=0.25 
.ENDS  Bias_0_INA826
*
.SUBCKT D_D4_0_Bias_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=0.10 RS=1 XTI=0 EG=0.11)
.ENDS  D_D4_0_Bias_0
*
.SUBCKT D_DBE_1_Bias_0   1 2
+ PARAMS: AREA = 1
D1 1 2  DBE  {AREA}
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_1_Bias_0
*
.SUBCKT D_LIM1_0_Bias_0   1 2
D1 1 2  D_LIM1
*
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*
.ENDS  D_LIM1_0_Bias_0
*
.SUBCKT D_ZB1_0_Bias_0        1    2
D1 1 2  D_2_6V
CD 1 2 10P
.MODEL D_2_6V D( IS=1F N=1.0 BV=2.6 IBV=20.0U RS=0 XTI=0)
.ENDS  D_ZB1_0_Bias_0
*
.SUBCKT NPN_1_0_Bias_0  1 2 3
+ PARAMS: AREA = 1
Q    1 2 3 Q_NPN_1  {AREA}
*
.MODEL Q_NPN_1 NPN 
+ IS=8.8E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=2.0
+ IKR=2.0
+ BF=210
+ ISE=16E-18
+ NE=1.6438
+ BR=10
+ ISC=2.0f
+ NC=2
+ RE=31
+ RB=850
+ RC=67
+ CJE=12f
+ CJC=3f
+ CJS=7.0f
+ TF=10p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  NPN_1_0_Bias_0
*
.SUBCKT PNP_1_0_Bias_0  1    2    3
+ PARAMS: AREA = 1
Q    1 2 3 Q_PNP_1  {AREA}
*
.MODEL Q_PNP_1 PNP 
+ IS=1.25E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=3.0
+ IKR=3.0
+ BF=210
+ ISE=270E-18
+ NE=2.5
+ BR=2
+ ISC=35.0f
+ NC=2
+ RE=61.0
+ RB=640
+ RC=220
+ CJE=12.0f
+ CJC=34f
+ CJS=7.0f
+ TF=6p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  PNP_1_0_Bias_0
*
*$
******************************************************
.subckt Input_0_INA826 VM Neg IGND Bias IAVDD OUT VDD Plus GND Vt0p Vt0 Veps VNEG 
+ Vnoise
******************************************************
C1          OUT 49 2.5P  
C33         VV_40 VM  2.28785036899440E-0016  
C4          VDD VBP_42 100F  
C5          VBN_43 GND 100F  
CF1         VBP_42 47 5P  
CF2         47 VBN_43 5P  
CF4         VBP_42 OUT 700F  
CF5         OUT VBN_43 700F  
CGM2        44 IGND 1P  
CO21        45 NEG 500F  
CO22        NEG GND 500F  
CO23        GND 45 500F  
EVF2        46 GND VV_40 IGND  200M
EVOFFS      PLUS 45 POLY(2) VEPS GND VNOISE 0 0 2.6U -472M 0 0 
EVT01       52 IGND VT0 GND  1
EVT02       54 GND VT0 GND  2
EVT0P2      VDD 55 VDD VT0P  2
EVT0_1      53 IGND VT0 GND  -1
FGI3        VDD VBP_42 VI3B 1
FGI8        VBN_43 GND VI8B -1
GM1         VM VV_40 NEG 45  44.3610441345U
GM2         IGND 44 VV_40 VM  19.3414152427U
R1          VV_40 49 8K 
R2          VDD VBP_42 100MEG 
R3          VBN_43 GND 100MEG 
R4          VBP_42 48 1K 
R6          VBP_42 VBN_43 1G 
R83         VV_40 VM 69.5652763174MEG 
RE1         56 GND 50 
RE2         VDD 57 50 
RGM2        44 IGND 178.87324K 
RO21        45 NEG 1G 
RO22        NEG GND 100G 
RO23        GND 45 100G 
ROF2        47 46 51.7025247353K TC=-2.67U,-1N
VI3B        44 51 ; CURRENT ARROW
VI8B        44 50 ; CURRENT ARROW
VO21        IAVDD 58 633.8289718289M
VO22        59 VNEG 633.8289718289M
XD1         59 VV_40 D_LIM1_0_Input_0_INA826
XD2         VV_40 58 D_LIM1_0_Input_0_INA826
XD3         GND VBN_43 D_LIM1_0_Input_0_INA826
XD5         VBP_42 VDD D_LIM1_0_Input_0_INA826
XD7         52 50 D_DBE_2_Input_0_INA826
+ PARAMS: AREA=0.125
XD8         51 53 D_DBE_1_Input_0_INA826
+ PARAMS: AREA=0.125
XT1         OUT VBP_42 57 PNP_1_0_Input_0_INA826
+ PARAMS: AREA=6 
XT2         OUT VBN_43 56 NPN_1_0_Input_0_INA826
+ PARAMS: AREA=6 
XT3         48 54 VBN_43 NPN_1_0_Input_0_INA826
+ PARAMS: AREA=0.125 
XT4         VBN_43 55 VBP_42 PNP_1_0_Input_0_INA826
+ PARAMS: AREA=0.125 
.ENDS  Input_0_INA826
*
.SUBCKT D_DBE_1_Input_0_INA826   1 2
+ PARAMS: AREA = 1
D1 1 2  DBE  {AREA}
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_1_Input_0_INA826
*
.SUBCKT D_DBE_2_Input_0_INA826   1 2
+ PARAMS: AREA = 1
D1 1 2  DBE  {AREA}
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_2_Input_0_INA826
*
.SUBCKT D_LIM1_0_Input_0_INA826   1 2
D1 1 2  D_LIM1
*
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*
.ENDS  D_LIM1_0_Input_0_INA826
*
.SUBCKT NPN_1_0_Input_0_INA826  1 2 3
+ PARAMS: AREA = 1
Q    1 2 3 Q_NPN_1  {AREA}
*
.MODEL Q_NPN_1 NPN 
+ IS=8.8E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=2.0
+ IKR=2.0
+ BF=210
+ ISE=16E-18
+ NE=1.6438
+ BR=10
+ ISC=2.0f
+ NC=2
+ RE=31
+ RB=850
+ RC=67
+ CJE=12f
+ CJC=3f
+ CJS=7.0f
+ TF=10p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  NPN_1_0_Input_0_INA826
*
.SUBCKT PNP_1_0_Input_0_INA826  1    2    3
+ PARAMS: AREA = 1
Q    1 2 3 Q_PNP_1  {AREA}
*
.MODEL Q_PNP_1 PNP 
+ IS=1.25E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=3.0
+ IKR=3.0
+ BF=210
+ ISE=270E-18
+ NE=2.5
+ BR=2
+ ISC=35.0f
+ NC=2
+ RE=61.0
+ RB=640
+ RC=220
+ CJE=12.0f
+ CJC=34f
+ CJS=7.0f
+ TF=6p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  PNP_1_0_Input_0_INA826
*
*$
******************************************************
.subckt Input_1_INA826 VM Neg IGND Bias IAVDD OUT VDD Plus GND Vt0p Vt0 Veps VNEG 
+ Vnoise
******************************************************
C1          OUT 92 2.5P  
C33         VV VM  1.28655280833754E-0016  
C4          VDD VBP 100F  
C5          VBN GND 100F  
CF1         VBP 90 5P  
CF2         90 VBN 5P  
CF4         VBP OUT 700F  
CF5         OUT VBN 700F  
CGM2        87 IGND 1P  
CO21        88 NEG 500F  
CO22        NEG GND 500F  
CO23        GND 88 500F  
EVF2        89 GND VV IGND  200M
EVOFFS      PLUS 88 POLY(2) VEPS GND VNOISE 0 0 2.8U 472M 0 0 
EVT01       95 IGND VT0 GND  1
EVT02       97 GND VT0 GND  2
EVT0P2      VDD 98 VDD VT0P  2
EVT0_1      96 IGND VT0 GND  -1
FGI3        VDD VBP VI3B 1
FGI8        VBN GND VI8B -1
GM1         VM VV NEG 88  44.3610441345U
GM2         IGND 87 VV VM  19.3414152427U
R1          VV 92 8K 
R2          VDD VBP 100MEG 
R3          VBN GND 100MEG 
R4          VBP 91 1K 
R6          VBP VBN 1G 
R83         VV VM 123.7064985288MEG 
RE1         99 GND 50 
RE2         VDD 100 50 
RGM2        87 IGND 178.87324K 
RO21        88 NEG 1G 
RO22        NEG GND 100G 
RO23        GND 88 100G 
ROF2        90 89 51.7025247353K TC=-2.67U,-1N
VI3B        87 94 ; CURRENT ARROW
VI8B        87 93 ; CURRENT ARROW
VO21        IAVDD 101 633.8289718289M
VO22        102 VNEG 633.8289718289M
XD1         102 VV D_LIM1_0_Input_1_INA826
XD2         VV 101 D_LIM1_0_Input_1_INA826
XD3         GND VBN D_LIM1_0_Input_1_INA826
XD5         VBP VDD D_LIM1_0_Input_1_INA826
XD7         95 93 D_DBE_2_Input_1_INA826
+ PARAMS: AREA=0.125
XD8         94 96 D_DBE_1_Input_1_INA826
+ PARAMS: AREA=0.125
XT1         OUT VBP 100 PNP_1_0_Input_1_INA826
+ PARAMS: AREA=6 
XT2         OUT VBN 99 NPN_1_0_Input_1_INA826
+ PARAMS: AREA=6 
XT3         91 97 VBN NPN_1_0_Input_1_INA826
+ PARAMS: AREA=0.125 
XT4         VBN 98 VBP PNP_1_0_Input_1_INA826
+ PARAMS: AREA=0.125 
.ENDS  Input_1_INA826
*
.SUBCKT D_DBE_1_Input_1_INA826   1 2
+ PARAMS: AREA = 1
D1 1 2  DBE  {AREA}
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_1_Input_1_INA826
*
.SUBCKT D_DBE_2_Input_1_INA826   1 2
+ PARAMS: AREA = 1
D1 1 2  DBE  {AREA}
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_2_Input_1_INA826
*
.SUBCKT D_LIM1_0_Input_1_INA826   1 2
D1 1 2  D_LIM1
*
.MODEL D_LIM1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*
.ENDS  D_LIM1_0_Input_1_INA826
*
.SUBCKT NPN_1_0_Input_1_INA826  1 2 3
+ PARAMS: AREA = 1
Q    1 2 3 Q_NPN_1  {AREA}
*
.MODEL Q_NPN_1 NPN 
+ IS=8.8E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=2.0
+ IKR=2.0
+ BF=210
+ ISE=16E-18
+ NE=1.6438
+ BR=10
+ ISC=2.0f
+ NC=2
+ RE=31
+ RB=850
+ RC=67
+ CJE=12f
+ CJC=3f
+ CJS=7.0f
+ TF=10p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  NPN_1_0_Input_1_INA826
*
.SUBCKT PNP_1_0_Input_1_INA826  1    2    3
+ PARAMS: AREA = 1
Q    1 2 3 Q_PNP_1  {AREA}
*
.MODEL Q_PNP_1 PNP 
+ IS=1.25E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=3.0
+ IKR=3.0
+ BF=210
+ ISE=270E-18
+ NE=2.5
+ BR=2
+ ISC=35.0f
+ NC=2
+ RE=61.0
+ RB=640
+ RC=220
+ CJE=12.0f
+ CJC=34f
+ CJS=7.0f
+ TF=6p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  PNP_1_0_Input_1_INA826
*
*$
******************************************************
.subckt Output_0_INA826 VM Neg IGND Bias IAVDD OUT VDD Veps GND Vt0p Vt0 Plus VNEG 
+ Vnoise
******************************************************
C1          OUT 73 3P  
C3          OUT 65 1.5P  
C33         VV_60 VM  9.88452793058326E-0017  
C4          VDD VBP_62 1P  
C5          VBN_63 GND 1P  
CF1         VBP_62 VOC 10P  
CF2         VOC VBN_63 10P  
CF4         VBP_62 OUT 800F  
CF5         OUT VBN_63 800F  
CGM2        64 IGND 1P  
CO21        69 NEG 500F  
CO22        NEG GND 500F  
CO23        GND 69 500F  
EIOS        PLUS 69 POLY(3) VEPS GND VNOISE 0 0 VOS 0 5U 0 1 0 
EVF2        71 GND VV_60 IGND  200M
EVT01       76 IGND VT0 GND  1
EVT02       78 GND VT0 GND  2
EVT0P2      VDD 79 VDD VT0P  2
EVT0_1      77 IGND VT0 GND  -1
FGI3        VDD VBP_62 VI3B 1
FGI8        VBN_63 GND VI8B -1
GM1         VM VV_60 NEG 69  77.3656609706U
GM2         IGND 64 VV_60 VM  24.1767690533U
GMF1        VV_60 VM 65 GND  -15.4731321941U
R1          VV_60 73 9K 
R2          VDD VBP_62 10MEG 
R3          VBN_63 GND 10MEG 
R4          VBP_62 72 400 
R5          65 GND 25K TC=-2.67U,-1N
R6          VBP_62 VBN_63 1G 
R83         VV_60 VM 161.0142074661MEG 
RE1         80 GND 10 
RE2         VDD 67 10 
RGM2        64 IGND 178.8732394366K 
RO21        69 NEG 1G 
RO22        NEG GND 100G 
RO23        GND 69 100G 
ROF2        VOC 71 6.4628155919K TC=-2.67U,-1N
VI3B        64 75 ; CURRENT ARROW
VI8B        64 74 ; CURRENT ARROW
VO21        IAVDD 81 648.2062590927M
VO22        66 VNEG 648.2062590927M
XD1         66 VV_60 D_LIM5_0_Output_0_INA826
XD2         VV_60 81 D_LIM5_0_Output_0_INA826
XD3         GND VBN_63 D_LIM1_0_Output_0_INA826
XD5         VBP_62 VDD D_LIM1_0_Output_0_INA826
XD7         76 74 D_DBE_3_Output_0_INA826
XD8         75 77 D_DBE_3_Output_0_INA826
XT1         OUT VBP_62 67 PNP_OUT_0_Output_0_INA826
+ PARAMS: AREA=10 
XT2         OUT VBN_63 80 NPN_OUT_0_Output_0_INA826
+ PARAMS: AREA=10 
XT3         72 78 VBN_63 NPN_1_0_Output_0_INA826
+ PARAMS: AREA=0.25 
XT4         VBN_63 79 VBP_62 PNP_1_0_Output_0_INA826
+ PARAMS: AREA=0.25 
XVOS        0 VOS VOST_0_Output_0_INA826
.ENDS  Output_0_INA826
*
.SUBCKT D_DBE_3_Output_0_INA826   1 2
D1 1 2  DBE 0.25
*
.Model Dbe D ( IS=8.8E-18 N=1 RS=100 KF=0.48e-18)
*
.ENDS  D_DBE_3_Output_0_INA826
*
.SUBCKT D_LIM1_0_Output_0_INA826   1 2
D1 1 2  D_LIM1
*
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*
.ENDS  D_LIM1_0_Output_0_INA826
*
.SUBCKT D_LIM5_0_Output_0_INA826    1 2
D1 1 2  D_LIM5
*
.MODEL D_Lim5 D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0)
*
.ENDS  D_LIM5_0_Output_0_INA826
*
.SUBCKT NPN_1_0_Output_0_INA826  1 2 3
+ PARAMS: AREA = 1
Q    1 2 3 Q_NPN_1  {AREA}
*
.MODEL Q_NPN_1 NPN 
+ IS=8.8E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=2.0
+ IKR=2.0
+ BF=210
+ ISE=16E-18
+ NE=1.6438
+ BR=10
+ ISC=2.0f
+ NC=2
+ RE=31
+ RB=850
+ RC=67
+ CJE=12f
+ CJC=3f
+ CJS=7.0f
+ TF=10p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  NPN_1_0_Output_0_INA826
*
.SUBCKT NPN_OUT_0_Output_0_INA826  1 2 3
+ PARAMS: AREA = 1
Q    1 2 3 Q_NPN_OUT  {AREA}
*
.MODEL Q_NPN_OUT NPN 
+ IS=8.8E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=2.0
+ IKR=2.0
+ BF=210
+ ISE=16E-18
+ NE=1.6438
+ BR=10
+ ISC=2.0f
+ NC=2
+ RE=31
+ RB=850
+ RC=67
+ CJE=12f
+ CJC=3f
+ CJS=7.0f
+ TF=10p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  NPN_OUT_0_Output_0_INA826
*
.SUBCKT PNP_1_0_Output_0_INA826  1    2    3
+ PARAMS: AREA = 1
Q    1 2 3 Q_PNP_1  {AREA}
*
.MODEL Q_PNP_1 PNP 
+ IS=1.25E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=3.0
+ IKR=3.0
+ BF=210
+ ISE=270E-18
+ NE=2.5
+ BR=2
+ ISC=35.0f
+ NC=2
+ RE=61.0
+ RB=640
+ RC=220
+ CJE=12.0f
+ CJC=34f
+ CJS=7.0f
+ TF=6p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  PNP_1_0_Output_0_INA826
*
.SUBCKT PNP_OUT_0_Output_0_INA826  1    2    3
+ PARAMS: AREA = 1
Q    1 2 3 Q_PNP_OUT  {AREA}
*
.MODEL Q_PNP_OUT PNP 
+ IS=1.25E-18
+ NF=1
+ NR=1
+ VAF=285
+ VAR=100
+ IKF=3.0
+ IKR=3.0
+ BF=210
+ ISE=270E-18
+ NE=2.5
+ BR=2
+ ISC=35.0f
+ NC=2
+ RE=61.0
+ RB=640
+ RC=220
+ CJE=12.0f
+ CJC=34f
+ CJS=7.0f
+ TF=6p
+ TR=600p
+ KF=3.7629e-18
*
.ENDS  PNP_OUT_0_Output_0_INA826
*
.SUBCKT VOST_0_Output_0_INA826   1 2
.PARAM I0 = 1M
.PARAM DVOS_DT = {-1.0U}
.PARAM RG3 = 50K
.PARAM RG4 = 50K
.PARAM AOS = {(RG3 + RG4)/RG4}
.PARAM VOFFS = {(-200U + 27U)/AOS} ;VOSI = 40U, VOSO = 200U
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0/AOS}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS  VOST_0_Output_0_INA826